US09056874B2
2-((3-Cyano-5-ethyl-7-methyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile
To a suspension of 2-((5-ethyl-7-methyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile (15 mg, 0.048 mmol) in DMF (1 mL) was added chlorosulfonyl isocyanate (17 μL, 0.191 mmol) at 0° C., and then the mixture was stirred at 0° C. for 1.5 h. The mixture was allowed to warm up to room temperature with stirring. After 13.5 h, the reaction was quenched by 28% aq. NH4OH. The mixture was stirred for 0.25 h and then extracted with EtOAc/2,2,2-trifluoroethanol (c.a. 9/1). The organic layer was washed with H2O and brine, dried over Na2SO4, and filtered. After concentration, the resulting residue was purified by silica gel flash column chromatography [CH2Cl2/(2M NH3 in MeOH)=98/2, isocratic] to give the title compound. 1H NMR (400 MHz, ACETONITRILE-d3 with about 5 μL TFA) δ ppm 10.22 (br. s., 1H), 8.07 (dd, J=1.00, 1.10 Hz, 1H), 7.91 (d, J=3.16 Hz, 1H), 7.71-7.85 (m, 2H), 7.15 (s, 1H), 5.02 (s, 2H), 2.71 (q, J=7.60 Hz, 2H), 2.54 (d, J=0.63 Hz, 3H), 1.14 (t, J=7.58 Hz, 3H). HRMS calcd. for C21H17N5 (M+H)+ 340.1557. found 340.1556.

reactant | 2-((5-ethyl-7-methyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | 0.048 mmol, 15 mg | C(C)C=1C(=C2C=CNC2=C(C1)C)CC1=NC2=C(N1)C=CC(=C2)C#N | C20H18N4
reactant | chlorosulfonyl isocyanate | 0.191 mmol, 17 μL | ClS(=O)(=O)N=C=O | CClNO3S
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-((3-Cyano-5-ethyl-7-methyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | C(#N)C1=CNC2=C(C=C(C(=C12)CC1=NC2=C(N1)C=CC(=C2)C#N)CC)C | C21H17N5
